US05246948
Synthesis of 4-[3-(cyclohexanoylamino)propylthio]pyridine hydrochloride
To a solution of 1.00 g (4.15 mmol) of 4-(3-aminopropylthio)pyridine dihydrochloride and 2.77 ml (19.8 mmol) of triethylamine in 40 ml of methylene chloride was added 0.66 ml (4.96 mmol) of cyclohexanoyl chloride under ice-cooling with stirring and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was washed with an aqueous saturated sodium bicarbonate solution and water and dried. The solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate) to obtain 890 mg of the desired compound (free base) (77.0%, colorless prisms), mp: 93.0°-94.0° C.

reactant | 4-(3-aminopropylthio)pyridine dihydrochloride | 4.15 mmol, 1.00 g | Cl.Cl.NCCCSC1=CC=NC=C1
reactant | triethylamine | 19.8 mmol, 2.77 ml | C(C)N(CC)CC | C6H15N
reactant | cyclohexanoyl chloride | 4.96 mmol, 0.66 ml | C1(CCCCC1)C(=O)Cl | C7H11ClO
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 4-[3-(cyclohexanoylamino)propylthio]pyridine hydrochloride | 890 mg, 77.0% | Cl.C1(CCCCC1)C(=O)NCCCSC1=CC=NC=C1 | InChI=1S/C15H22N2OS.ClH/c18-15(13-5-2-1-3-6-13)17-9-4-12-19-14-7-10-16-11-8-14;/h7-8,10-11,13H,1-6,9,12H2,(H,17,18);1H
